US04482639
50 g sodium hydroxide were dissolved in approximately 1.2 liters of water, and 150 g of 4-tert-butylphenol were added to this solution. The mixture was stirred and gently heated until the phenol dissolved. The solution was then cooled to ambient temperature. Aqueous formaldehyde (175 ml, 37%) was added, and the solution was stirred for four to six days at ambient temperature. Concentrated hydrochloric acid (110 ml) was added, upon which a two-phase system forms. A yellow, oily organic phase was isolated and washed with three 500 ml portions of water. Chloroform (700 ml) and 500 ml of water were added to this organic oil and the mixture was stirred. The organic phase was isolated and dried over 100 g of anhydrous magnesium sulphate. Evaporation and cooling of the chloroform solution yielded a mixture of white crystals and oil. The addition of 50-100 ml of chloroform and filtration yielded a white crystalline product, 4-tert-butyl-2,6-di(hydroxymethyl) phenol.

reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | 4-tert-butylphenol | 150 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | formaldehyde | 175 ml | C=O | CH2O
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | water | approximately 1.2 liters | O | H2O
solvent | chloroform | 50-100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-tert-butyl-2,6-di(hydroxymethyl) phenol | C(C)(C)(C)C1=CC(=C(C(=C1)CO)O)CO | C12H18O3
